US06680338B2
Intermediate 7 Methyl 4-Acetylsulfanylmethyl-tetrahydropyran-4-carboxylate
n-Butyllithium (49.8 ml of a 1.6 N solution in hexanes) was added gradually to a solution of diisopropylamine (11.2 ml) in tetrahydrofuran (90 ml) cooled in an acetone-cardice bath under an atmosphere of nitrogen. After stirring for 30 minutes, ethyl cyclobutanecarboxylate (10 ml) was added. The mixture was stirred for a further 30 minutes before addition of diiodomethane (6.4 ml), and then for 3 hours, during which it warmed to room temperature. It was quenched with water (30 ml) and the tetrahydrofuran. evaporated in vacuo. The residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous was extracted with ethyl acetate (100 ml). The combined organics were dried (MgSO4) and the solvent removed in vacuo to give a brown oil which was dissolved in N,N-dimethylformamide (40 ml) and added to a suspension of potassium thioacetate (8.3 g) in N,N-dimethylformamide (40 ml) at room temperature. The mixture was stirred for 18 hours before evaporation of the solvent in vacuo. The residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The organics were washed with water (100 ml), dried (MgSO4) and the solvent removed in vacuo to give the title compound (13.5 g) as a brown oil.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 11.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl cyclobutanecarboxylate | 10 ml | C1(CCC1)C(=O)OCC | C7H12O2
reactant | diiodomethane | 6.4 ml | ICI | CH2I2
reactant | potassium thioacetate | 8.3 g | C(C)(=S)[O-].[K+]
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Methyl 4-Acetylsulfanylmethyl-tetrahydropyran-4-carboxylate | 13.5 g | C(C)(=O)SCC1(CCOCC1)C(=O)OC | C10H16O4S
